US04424351
3-Phenyl-1,4-dihydropyrido[3,4-e]-as-triazine is reacted with butyryl chloride as described in Example 2 to obtain 3-phenyl-1-butyryl-1,4-dihydropyrido[3,4-e]-as-triazine with a yield of 78%; m.p.: 225°-226° C.

reactant | 3-Phenyl-1,4-dihydropyrido[3,4-e]-as-triazine | C1(=CC=CC=C1)C1=NNC2=C(N1)C=NC=C2 | C12H10N4
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | 3-phenyl-1-butyryl-1,4-dihydropyrido[3,4-e]-as-triazine | yield of 78% | C1(=CC=CC=C1)C1=NN(C2=C(N1)C=NC=C2)C(CCC)=O | C16H16N4O
